US07368578B2
To a solution of tetraethyl methylenediphosphonate (63 mg) in N,N-dimethylformamide (3 mL) was added sodium hydride (60% in oil, 8.8 mg) at room temperature, and the mixture was stirred for 30 min. To the reaction mixture was added 3-([4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl](methyl)amino)-1-phenyl-1H-pyrazole-4-carbaldehyde (100 mg) and the mixture was further stirred at room temperature for 2 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to flash silica gel column chromatography and eluted with ethyl acetate-hexane (1:1 to 4:1, v/v) to give diethyl ((E)-2-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)(methyl)amino]-1-phenyl-1H-pyrazol-4-yl}ethenyl)phosphonate as a colorless oil (84.9 mg, yield 67%).

reactant | tetraethyl methylenediphosphonate | 63 mg | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | sodium hydride | 8.8 mg | [H-].[Na+]
reactant | 3-([4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl](methyl)amino)-1-phenyl-1H-pyrazole-4-carbaldehyde | 100 mg | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(CN(C2=NN(C=C2C=O)C2=CC=CC=C2)C)C=C1)OC)C | C28H26N4O5
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | diethyl ((E)-2-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)(methyl)amino]-1-phenyl-1H-pyrazol-4-yl}ethenyl)phosphonate | 84.9 mg, yield 67% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(CN(C2=NN(C=C2/C=C/P(OCC)(OCC)=O)C2=CC=CC=C2)C)C=C1)OC)C | C33H37N4O7P
